US09079902B2
A 10-mL round-bottom flask was charged with N-(3-bromo-1,2,4-thiadiazol-5-yl)-N-(4-methoxybenzyl)-1-methyl-3-(2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)-1H-indole-6-sulfonamide (28 mg, 0.039 mmol), DCM (1 mL), and trifluoroacetic acid (60.1 μl, 0.780 mmol). The flask was sealed, and the mixture was stirred for 2.5 h. An additional portion of TFA (0.15 mL) was added, and the resulting mixture was stirred for 48 h. The volatiles were removed in vacuo, and the residue was concentrated again from DCM. The crude product was purified by chromatography on silica gel (5 to 10% MeOH/DCM) to give N-(3-bromo-1,2,4-thiadiazol-5-yl)-1-methyl-3-(2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)-1H-indole-6-sulfonamide (19.91 mg, 0.033 mmol, 85% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ=7.94-7.83 (m, 3 H), 7.75 (s, 1 H), 7.55 (d, J=8.5 Hz, 1 H), 7.46-7.35 (m, 2 H), 7.05 (s, 1 H), 6.36 (d, J=1.9 Hz, 1 H), 3.78 (s, 3 H), 3.21 (s, 3 H). m/z (ESI) 597.0 (M+H)+.

reactant | N-(3-bromo-1,2,4-thiadiazol-5-yl)-N-(4-methoxybenzyl)-1-methyl-3-(2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)-1H-indole-6-sulfonamide | 0.039 mmol, 28 mg | BrC1=NSC(=N1)N(S(=O)(=O)C1=CC=C2C(=CN(C2=C1)C)C1=C(C=C(C=C1)C(F)(F)F)C1=CC=NN1C)CC1=CC=C(C=C1)OC | C30H24BrF3N6O3S2
reactant | trifluoroacetic acid | 0.780 mmol, 60.1 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | TFA | 0.15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(3-bromo-1,2,4-thiadiazol-5-yl)-1-methyl-3-(2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)-1H-indole-6-sulfonamide | 0.033 mmol, 19.91 mg, 85% yield | BrC1=NSC(=N1)NS(=O)(=O)C1=CC=C2C(=CN(C2=C1)C)C1=C(C=C(C=C1)C(F)(F)F)C1=CC=NN1C | C22H16BrF3N6O2S2
